US08957069B2
5-[4-(4-methoxyphenyl)piperazin-1-yl]-4,6,7-trimethyl-1-benzofuran-3(2H)-one
1N hydrochloric acid (5 mL) was added to a solution of THF (25 mL) containing 1-(3-{[tert-butyl(dimethyl)silyl]oxy}-4,6,7-trimethyl-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine (560 mg, 1.16 mmol) synthesized in Reference Example 108, and the mixture was stirred at room temperature for 1 hour. The resulting mixture was diluted with saturated sodium bicarbonate water. THF in the reaction mixture was removed under reduced pressure, and the residue was extracted using ethyl acetate. The extract was washed with saturated saline, and dried using anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel chromatography (hexane-ethyl acetate 95:5 to 85/15) to give 310 mg of the title compound (yield: 73%).

reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | 1-(3-{[tert-butyl(dimethyl)silyl]oxy}-4,6,7-trimethyl-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine | 1.16 mmol, 560 mg | [Si](C)(C)(C(C)(C)C)OC1=COC2=C1C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C | C28H40N2O3Si
solvent | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
product | 5-[4-(4-methoxyphenyl)piperazin-1-yl]-4,6,7-trimethyl-1-benzofuran-3(2H)-one | 310 mg, yield: 73% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(CO2)=O)C1C)C)C | C22H26N2O3
